US06174874B1
Di(tert-butyl) (4-methylbenzoyl)phosphonate
To a solution of oxalyl chloride (1.75 mL) in CH2Cl2 (60 mL) cooled at −78° C. was added DMSO (2.8 mL) dropwise. The mixture was stirred for 10 min at −78° C. and a solution of di(tert-butyl) hydroxy(4-methylphenyl)methylphosphonate (3.14 g in 20 mL of CH2Cl2 was introduced dropwise. After stirring for 30 min at −78° C., 14 mL of Et3N was added. The resulting mixture was stirred for 30 min at −78° C. and 45 min at room temperature, and then quenched with 200 mL of 50% saturated aqueous NaCl solution. The mixture was extracted with 2×200 mL of 1:1 hexane/EtOAc and the extract was dried over MgSO4 and concentrated to give 3 g of the title compound as a yellow oil.

reactant | oxalyl chloride | 1.75 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 2.8 mL | CS(=O)C | C2H6OS
reactant | di(tert-butyl) hydroxy(4-methylphenyl)methylphosphonate | OC(C1=CC=C(C=C1)C)P(OC(C)(C)C)(OC(C)(C)C)=O | C16H27O4P
reactant | Et3N | 14 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | Di(tert-butyl) (4-methylbenzoyl)phosphonate | 3 g | CC1=CC=C(C(=O)P(OC(C)(C)C)(OC(C)(C)C)=O)C=C1 | C16H25O4P
